Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Amitriptyline / Norvasc
 
Attending: ___
 
Chief Complaint:
Tachycardia
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
___ is a ___ y.o male with h.o afib, ETOH abuse, CAD, DM, s/p 
___ cancer, recently admitted for afib RVR, who presents to 
the ED today with "fibrillations". Pt stated he was at home in 
his USOH when his HCP found that he was in "fibrillations" and 
called EMS. Reportedly, HCP found BP in 60's, EMS found SBP in 
the 90's, HR reportedly "sinus". Pt states he is never 
symptomatic from afib, including LH/dizziness/palp/CP, 
n/diaphoresis.  
.  
In the ED, Pt in sinus intil IV placed, then pt went into afib 
with RVR to the 140's. Pt rate controlled with 5mg IV lopressor, 
SBP then to 80's for which pt was given 4L IVF (also b/c lactate 
2.4). Pt given a total of 20mg IV dilt, then placed on a dilt 
gtt b/c "the IV dilt lowered the heart rate". Pt given calcium 
gluconate so the "dilt wouldn't lower the BP too much". Pt also 
got a dose of levoflox for unclear reasons. K was repleted.  
Last set of vitals. afeb, BP 107/58, hR 76, RR 15 sat 100% on 
RA.  
.  
On review of systems, he denies any prior history of stroke, 
TIA, deep venous thrombosis, pulmonary embolism, bleeding at the 
time of surgery, myalgias, joint pains, cough, hemoptysis, black 
stools or red stools. He denies recent fevers, chills or rigors. 
S/he denies exertional buttock or calf pain. All of the other 
review of systems were negative.  
.  
Cardiac review of systems is notable for absence of chest pain, 
dyspnea on exertion, paroxysmal nocturnal dyspnea, orthopnea, 
ankle edema, palpitations, syncope or presyncope.  

 
Past Medical History:
1. CARDIAC RISK FACTORS:: +Diabetes, +Dyslipidemia, 
+Hypertension  
2. CARDIAC HISTORY: CAD s/p MI x 4 (per pt 3 in 1 week)  
-CABG: n/a  
-PERCUTANEOUS CORONARY INTERVENTIONS:2. Coronary artery disease 
status post PCI x 2 in the past with a history of MI and 
angioplasty ___ years ago. His most recent cardiac 
catheterization was in ___ at ___ 
___ which revealed non-flow limiting three-vessel disease 
and no intervention was performed at that time.  
-PACING/ICD: Cardiac aflutter/a tach :1. SVT, specifically 
atrial tachycardia status post ablation in ___ with 
breakthrough atrial tachycardia and atrial flutter  
3. OTHER PAST MEDICAL HISTORY:  
DM ("type 1.5" per pt)  
ICH  
Diabetes - w/neuropathy; uses wheelchair mostly, attempts  
transfer with walker but has fallen more recently  
PVD -- sees Dr. ___  
___ Ca -- s/p partial colectomy ___, no rad or chemo; on ___  
yr follow-up schedule now -- due ___.  
Neuropathy -- progressing to R arm now; legs unchanged, uses  
Wt Loss -- ___ years  
Spinal Stenosis -- MRI done ___, no emergent issues, but  
some retrolisthesis of L4-5.
 
Social History:
___
Family History:
no family hx of heart disease. Both parents died at ___ of "old 
age."
 
Physical Exam:
Gen: lying in bed, sleeping with blankets over his head, then 
NAD, awake, cooperative.  
vitals-T 97, BP 123/71, HR 72, RR 18, sat 97% on RA  
HEENT-Perrla, EOMI, anicteric, MMM  
neck-no JVP, no LAD  
chest-b/l ae no w/c/r  
heart-s1s2 irregular, no m/r/g  
abd-+bs, soft, NT, ND  
ext-No c/c/e 2+pulses  

 
Pertinent Results:
___ CXR (PORTABLE AP)
COMPARISON: ___. 
Heart is normal in size. The aorta is mildly tortuous. Aside 
from minimal 
bibasilar atelectasis, the lungs are clear without consolidation 
or pulmonary edema. There is no pleural effusion or 
pneumothorax.  
IMPRESSION: No acute cardiopulmonary process.

SELECTED LAB VALUES:
___ 11:05PM URINE Blood-NEG Nitrite-NEG Protein-NEG 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NEG pH-5.0 Leuks-NEG
___ 11:05PM URINE bnzodzp-NEG barbitr-NEG opiates-NEG 
cocaine-NEG amphetm-NEG mthdone-NEG
___ 09:40PM BLOOD ___
___ 09:35AM BLOOD WBC-6.6 RBC-3.46* Hgb-11.3* Hct-33.1* 
MCV-96 MCH-32.8* MCHC-34.3 RDW-14.9 Plt ___
___ 09:35AM BLOOD Glucose-253* UreaN-4* Creat-0.5 Na-131* 
K-4.2 Cl-100 HCO3-23 AnGap-___ yo M with history of atrial tachycardia s/p ablation, atrial 
fibrillation, EtOH abuse, CAD, DM, and recent admission for 
atrial fibrillation with RVR, presented with EtOH intoxication 
and heart rate to the 140s.  

# Afib with RVR
Pt with history of atrial tachycardia s/p ablation in ___ with 
frequent breakthrough tachycardia. Pt present with "afib with 
RVR" in ED s/p IV lopressor, IV dilt, sent up on diltiazem drip. 
On morning of admission, patient was tachycardic to the 160s 
despite a maximal diltiazem drip. He denied denied chest pain, 
palpitations, shortness of breath, pre-syncope EKG at that time 
was found to be atrial tachycardia. After several doses of IV 
lopressor, the patient spontaneously converted to a sinus rhythm 
with rate around 70. The diltiazem drip was discontinue and the 
patient was manage on Toprol-XL in the morning and diltiazem 30 
mg PO four times daily. He remained in sinus rhythm until the 
morning of ___, when he again returned to an atrial 
fibrillation with rate to the 160s while patient was still 
sleeping. Was woken and again denied chest pain, palpitations, 
shortness of breath, pre-syncope. He had a stable BP with 
systolic in the 120s at that time. He was given two doses of IV 
lopressor and after approximately 30 minutes again returned to 
sinus rhythm with a rate in the ___ - 70s. We made a decision 
that given his alcohol abuse and fall risk that anticoagulation 
was not the best option for this patient. He was discharged on 
Toprol-XL 100 mg in the morning and Diltiazem extended release 
180 mg at night for his rate control.

# CORONARIES:  
Coronary artery disease status post PCI x 2 in the past with a 
history of MI and angioplasty ___ years ago. His most recent 
cardiac catheterization was in ___ at ___ 
___ which revealed non-flow limiting three-vessel 
disease and no intervention was performed at that time. He 
denied chest pain during this hospitalization and was continued 
on his home medications of aspirin, metoprolol, plavix, and a 
statin.

#ETOH abuse:  
History in OMR, pt admits to ___ drinks of scotch daily. CIWA 
scale initiated at admission, but patient did not have 
withdrawal symptomatology and thus did not trigger the need for 
benzos. On morning of admission he was given a "banana bag" 
containing IV folate, thiamine, and multivitamin.
 
Medications on Admission:
Metoprolol Tartrate 50 mg BID  
Aspirin 325 mg  
Clopidogrel 75 mg daily  
Duloxetine 30 mg Capsule, EC daily  
Atorvastatin 40 mg Tablet daily
 
Discharge Medications:
1. Aspirin 325 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).  
2. Atorvastatin 40 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).
3. Metoprolol Succinate 100 mg Tablet Sustained Release 24 hr 
Sig: One (1) Tablet Sustained Release 24 hr PO DAILY (Daily).
4. Duloxetine 30 mg Capsule, Delayed Release(E.C.) Sig: One (1) 
Capsule, Delayed Release(E.C.) PO DAILY (Daily).
5. Clopidogrel 75 mg Tablet Sig: One (1) Tablet PO once a day.
6. Diltiazem HCl 180 mg Capsule, Sustained Release Sig: One (1) 
Capsule, Sustained Release PO Every evening.

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary Diagnosis:
Atrial fibrillation with rapid ventricular response
Ethanol abuse
Tobacco Abuse

 
Discharge Condition:
stable, heart rate controlled.  chest pain free

 
Discharge Instructions:
You were admitted for atrial fibrillation.  You had a very rapid 
heart rate.  You were given medications to control your heart 
rate.  At the time of discharge, your heart rate was much better 
controlled.  

Please take all medications as prescribed.  Please take your 
Metoprolol in the morning, and your diltiazem in the evening.  

You were not started on an anticoagulation medication because of 
the risks of fall.  

If you develop any of the following concerning symptoms, please 
call your PCP or go to the ED: chest pains, shortness of breath, 
palpitations, fevers or chills. 
 
Followup Instructions:
___